US06573270B1
5-amino-1-benzyl-4-(4-methylphenyl)-1H-pyrazol-3-ol
To a stirring suspension of ethyl-2-cyano-2-phenylacetate (10.34 g) and benzylhydrazine dihydrochloride (14.87 g) in ethanol (200 ml) at room temperature was added triethylamine (21.27 ml). The reaction mixture was heated to reflux for 24 hours. The solvent was removed under reduced pressure to yield the crude material as a brown oil. This was re-dissolved in ethyl acetate (100 ml) and washed with water (2×75 ml), then dried (MgSO4) and the solvent removed in vacuo to yield a pale brown oil. This was recrystallised from methanol to yield the title product as pale yellow crystals (2.5 g, ca. 20%)

reactant | ethyl-2-cyano-2-phenylacetate | 10.34 g | C(C)OC(C(C1=CC=CC=C1)C#N)=O | C11H11NO2
reactant | benzylhydrazine dihydrochloride | 14.87 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | triethylamine | 21.27 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-1-benzyl-4-(4-methylphenyl)-1H-pyrazol-3-ol | 2.5 g, ca. 20% | NC1=C(C(=NN1CC1=CC=CC=C1)O)C1=CC=C(C=C1)C | C17H17N3O
